US08242280B2
To a solution of 5-bromo-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridine (4.8 g, 15.8 mmol) in DMF (60 ml) at −40° C. under nitrogen, sodium hydride (1.1 g, 47.3 mmol) was added. The mixture was stirred at −40° C. for 1 hour. Then 2,2-dimethyl-propionic acid chloromethyl ester (6.9 ml, 47.3 mmol; chloromethyl pivalate) in DMF (20 ml) was added dropwise and the resulting mixture was allowed to stir at 40° C. for another 2 hours. The reaction was quenched with saturated aqueous NH4Cl (40 ml) and worked up with ethyl acetate, brine, dried with Na2SO4 and evaporated. Silica gel chromatography of the crude using a gradient of ethyl acetate and hexane afforded 2,2-dimethyl-propionic acid 5-bromo-3-(2-methoxy-phenyl)-pyrazolo[3,4,b]pyridine-1-ylmethyl ester (4.1 g, 62% yield). 1H NMR (500 MHz, DMSO-d6) δ 1.11 (s, 9H), 3.85 (s, 3H), 6.46 (s, 2H), 7.09 (m, 1H), 7.24 (d, 1H), 7.51 (m, 1H), 7.60 (d, 1H), 8.43 (s, 1H), 8.74 (s, 1H).

reactant | 5-bromo-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridine | 15.8 mmol, 4.8 g | BrC=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C13H10BrN3O
reactant | sodium hydride | 47.3 mmol, 1.1 g | [H-].[Na+]
reactant | 2,2-dimethyl-propionic acid chloromethyl ester | 47.3 mmol, 6.9 ml | ClCOC(C(C)(C)C)=O | C6H11ClO2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2,2-dimethyl-propionic acid 5-bromo-3-(2-methoxy-phenyl)-pyrazolo[3,4,b]pyridine-1-ylmethyl ester | 4.1 g, 62% yield | BrC=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COC(C(C)(C)C)=O | C19H20BrN3O3
